US06753322B2
N-(2-Aminoethyl)-6-[(2,2-diphenylethyl)amino]-9{(2R,3R,4R,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide
A mixture of methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide (Preparation 9) (1.1 g, 2 mmol) and 1,2-ethylenediamine (1.1 g, 18.3 mmol) was heated at 105° C. for 2.5 hours. The mixture was dissolved in a little dichloromethane and purified by column chromatography on silica gel eluting with dichloromethane:methanol:concentrated aqueous ammonia (85:15:1.5, by volume). After evaporation of appropriate fractions the residue was triturated with diethyl ether, filtered and dried to yield the target compound as a white solid, (0.99 g, 86%)

reactant | methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | 2 mmol, 1.1 g | CC=1N(C2=NC(=NC(=C2N1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC | C28H31N7O5
reactant | 1,2-ethylenediamine | 18.3 mmol, 1.1 g | C(CN)N | C2H8N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Aminoethyl)-6-[(2,2-diphenylethyl)amino]-9{(2R,3R,4R,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | 0.99 g, 86% | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N8O5
